### PR TITLE
Tennenbaum's Theorem

### PR DESCRIPTION
**Pull request by HermesMarc**
This adds the development on Tennenbaum's theorem to the library.

### CODE REVIEW

**Comment by JoJoDeveloping** [comment]
Why close this?

File: .gitignore [hunk 1]
```diff
@@ -2,9 +2,6 @@
 *.vo
 *.v.d
 *.glob
-*Makefile.coq
```
Comment (JoJoDeveloping) [inline .gitignore]: Re-add this file (and the two others) to the `.gitignore`, please

**Comment by HermesMarc** [comment]
Sorry needed to add something more

**Review by JoJoDeveloping — COMMENTED** [review]
Thanks for the nice work! I will hopefully find time to take a deep look at the PR later tomorrow. From afar, it looks quite reasonable, except for the 3 Makefiles that should not be added to `git`.

I'll also hopefully be able to fix the CI then.

File: .gitignore (hunk 1 above)
Comment (HermesMarc) [reply .gitignore]: Have added the lines back in 👍

File: theories/Tennenbaum/Formulas.v
Comment (JoJoDeveloping) [inline theories/Tennenbaum/Formulas.v:1]: This file is now pretty empty. It proves several incoherent facts:
1. consistency of PA and Q
2. that numerals are bounded
3. some weird vector lemma
4. lemmas about substitution

these should probably be factored into better files, so that this can be deleted.
Point (3) should be in the vector / standard library. Point 4 is just a re-statement of already existing lemmas in the FOL library, right?
If facts 1 and 2 do not exist already, they should be added at an appropiate place. I'll look at which is appropriate soon :tm:

File: theories/Tennenbaum/HA_insep.v [hunk 2]
```diff
@@ -0,0 +1,285 @@
...
+    intros (t  & H1  & H2 )%rosser_equiv 
+           (t' & H1' & H2')%rosser_equiv.
+    specialize (H2 _ H1'). specialize (H2' _ H1). lia.
+  Qed.
+
+End CoqRosser.
+End CoqRosser.
+
+
+Section prv_utils.
```
Comment (JoJoDeveloping) [inline theories/Tennenbaum/HA_insep.v:38]: Do the facts in that section really not exist somewhere else? We should probably refactor them to some general utils package.

File: theories/Tennenbaum/Peano.v
Comment (JoJoDeveloping) [inline theories/Tennenbaum/Peano.v:1]: Remind me again, why is this file needed? How does it differ from the usual PA we have in the FOL library?

File: theories/Tennenbaum/Tennenbaum_insep.v [hunk 3]
```diff
@@ -41,14 +43,43 @@ Section Model.
...
+  Proof.
+    eapply surj_form_. 
+    4: apply enum_full_logic_quant. 3: apply enum_full_logic_sym.
+    3: exact falsity.
+    all: eapply enumerator__T_of_list.
+    1: apply enumerator_PA_funcs. 
+    1: apply enumerator_PA_preds.
+  Qed.
+
+  Lemma enumerable_Q_prv :
```
Comment (JoJoDeveloping) [inline theories/Tennenbaum/Tennenbaum_insep.v:59]: This Lemma also wants to live somewhere else. Note to self: figure out where :see_no_evil:

File: theories/_CoqProject [hunk 4]
```diff
@@ -1,7 +1,7 @@
 -docroot .
 
 -arg -w -arg -notation-overridden
-COQDOCFLAGS = "--charset utf-8 -s --with-header ../website/resources/header.html --with-footer ../website/resources/footer.html --index indexpage"
+COQDOCFLAGS = "--charset utf-8 -s --with-header ../website/resources/header.html --with-footer ../website/resources/footer.html --index indexpage --external https://hermesmarc.github.io/coq-library-fol/website/undec Undecidability"
```
Comment (JoJoDeveloping) [inline theories/_CoqProject]: @dominik-kirst this link is not supposed to be there, right?

**Comment by JoJoDeveloping** [comment]
Thanks for the PR!
I've taken a closer look at the code. Since I'm not too familiar with the logical setup of your proof, I trust that your code is well-structured :slightly_smiling_face: I've commented on a few places, mostly where I think I spotted lemmas that seemed out-of-place / should be refactored to a more general place.

PS: turns out the CI has fixed itself :thinking: :tada:

File: theories/Tennenbaum/HA_insep.v (hunk 2 above)
Comment (HermesMarc) [reply theories/Tennenbaum/HA_insep.v:38]: No, I don't think that there is such a file right now. Would indeed be great to have a file (For example in the [`Deduction`](https://github.com/uds-psl/coq-library-fol/tree/coq-8.16/theories/Deduction) folder) where things like this could be collected.

File: theories/Tennenbaum/Peano.v
Comment (HermesMarc) [reply theories/Tennenbaum/Peano.v:1]: I don't think for example that https://github.com/uds-psl/coq-library-fol/blob/0fe6a74eebe8b567d8196e0f62608ac3c55753f3/theories/Tennenbaum/Peano.v#L561-L562

Is part of the FOL library result collection for PA. But basically half of the file is aimed towards proving this.

File: theories/_CoqProject (hunk 4 above)
Comment (dominik-kirst) [reply theories/_CoqProject]: changed to the uds-psl websites now, integrates the undec html with the fol html

**Comment by JoJoDeveloping** [comment]
Due to time constraints, we'll merge this now and refactor things around later.
